US07273868B2
To a mixture of 5-carboxy-2,4,6-trichloropyrimidine (prepared in the above (1)) 100 mg, triethylamine 89 mg in dimethylformamide 3 ml is added at room temperature a 1.0M solution of benzylthiol in tetrahydrofuran 0.44 ml, and the mixture is stirred for 1 hour. The reaction mixture is diluted with a 10% aqueous citric acid solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-benzylthio-5-carboxy-2,6-dichloropyrimidine as a pale yellow oil.

reactant | 5-carboxy-2,4,6-trichloropyrimidine | C(=O)(O)C=1C(=NC(=NC1Cl)Cl)Cl | C5HCl3N2O2
reactant | triethylamine | 89 mg | C(C)N(CC)CC | C6H15N
reactant | benzylthiol | C1=CC=C(C=C1)CS | C7H8S
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.44 ml | O1CCCC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-benzylthio-5-carboxy-2,6-dichloropyrimidine | C(C1=CC=CC=C1)SC1=NC(=NC(=C1C(=O)O)Cl)Cl | C12H8Cl2N2O2S
